US08168648B2
To a solution of (R)-(+)-methyl lactate (2.95 g, 28.34 mmol) in DMF (20 mL) was added tert-butyldimethyl silyl chloride (6.41 g, 42.51 mmol) and imidazole (6.75 g, 99.18 mmol). After stirring at a room temperature for 18 hr, the reaction mixture was diluted with a saturated aqueous NaCl solution (90 mL) and extracted with petroleum ether (3×60 mL). The organic layer was washed with a cold 3% HCl solution (30 mL) and a saturated aqueous NaCl solution (30 mL), dried over Na2SO4 and concentrated. The remaining residue was purified by silica gel (105 g) with petroleum ether (300 mL), followed by 3% ethyl acetate in petroleum ether (600 mL). The 3% ethyl acetate in the petroleum ether fractions was collected and the solvent was removed to give 5.26 g of (R)-(+)-Methyl 2-(tert-butyldimethylsilyloxy)propanoate as colorless oil (85% yield). 1H NMR (CDCl3): δ 4.26 (q, 1H, J=6.8 Hz, —CH), 3.65 (s, 3H, —OCH3), 1.32 (d, 3H, J=6.8 Hz, —CH3), 0.83 (s, 9H, Si—(CH3)3), 0.03 (s, 3H, Si—CH3), 0.00 (s, 3H, Si—CH3).

reactant | (R)-(+)-methyl lactate | 28.34 mmol, 2.95 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | tert-butyldimethyl silyl chloride | 42.51 mmol, 6.41 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 99.18 mmol, 6.75 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | NaCl | 90 mL | [Na+].[Cl-]
product | (R)-(+)-Methyl 2-(tert-butyldimethylsilyloxy)propanoate | 5.26 g, 85% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](C(=O)OC)C | C10H22O3Si
